US06486184B2
A solution of rac-(3,4-dichloro-phenyl)-[(tetrahydro-pyran-4-yl)oxy]-acetic acid (90 mg, 0.30 mmol) in dichloromethane (10 mL) was treated with BOP reagent (195 mg, 0.44 mmol), triethylamine (0.12 mL, 0.88 mmol), and 2-aminothiazole (44 mg, 0.44 mmol) at 25° C. After the resulting brownish-orange solution was stirred 16 h at 25° C., it was diluted with water (10 ml) and extracted with ethyl acetate (3×15 mL). The combined organic layers were washed with water (1×10 mL), 1N sodium hydroxide solution (1×10 mL), 1N hydrochloric acid (1×10 mL) and brine (1×10 mL), then were dried over sodium sulfate and evaporated in vacuo. The residual material was purified by flash chromatography (Merck Silica gel 60, 230-400 mesh, 90/10 hexanes/ethyl acetate) to give rac-2-(3,4-dichloro-phenyl)-2-[(tetrahydro-pyran-4-yl)oxy]-N-thiazol-2-yl-acetamide (98 mg, 86% yield) as a white foam: EI-HRMS m/e calcd for C16H16Cl2O3N2S (M+) 386.0258, found 386.0261.

reactant | rac-(3,4-dichloro-phenyl)-[(tetrahydro-pyran-4-yl)oxy]-acetic acid | 0.30 mmol, 90 mg | ClC=1C=C(C=CC1Cl)C(C(=O)O)OC1CCOCC1 | C13H14Cl2O4
reactant | BOP reagent | 0.44 mmol, 195 mg | CN(C)[P+](N(C)C)(N(C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 0.88 mmol, 0.12 mL | C(C)N(CC)CC | C6H15N
reactant | 2-aminothiazole | 0.44 mmol, 44 mg | NC=1SC=CN1 | C3H4N2S
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | water | 10 ml | O | H2O
product | rac-2-(3,4-dichloro-phenyl)-2-[(tetrahydro-pyran-4-yl)oxy]-N-thiazol-2-yl-acetamide | 98 mg, 86% yield | ClC=1C=C(C=CC1Cl)C(C(=O)NC=1SC=CN1)OC1CCOCC1 | C16H16Cl2N2O3S
